US06306864B1
6-(2-[3-(2-Chlorophenyl)-6-fluoro-4-oxo-3,4-dihydroquinazolin-2-yl-vinyl)pyridine-2-carbaldehyde
A catalytic amount (about 100 mg) of anhydrous zinc chloride was added to a solution of 576 mg (2.0 mmol) of 3-(2-chlorophenyl)-6-fluoro-2-methyl-4(3H)-quinazolinone and 270 mg (2.0 mmol) of 2,6-pyridinedicarboxaldehyde in 20-25 mL of dioxane and 1.0 mL of acetic anhydride. The reaction mixture was heated at reflux under a nitrogen atmosphere for 3 hours until TLC indicated that the starting materials had been consumed. The cooled reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The combined extracts were dried with brine and magnesium sulfate, treated with decolonizing carbon and filtered and the solvent was removed to give the desired product. This was taken up in 2:1 ether/pentane and the crystals were filtered to give 266 mg of the product, 33%, m.p. 247-248° C.

reactant | 3-(2-chlorophenyl)-6-fluoro-2-methyl-4(3H)-quinazolinone | 2.0 mmol, 576 mg | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)C | C15H10ClFN2O
reactant | 2,6-pyridinedicarboxaldehyde | 2.0 mmol, 270 mg | N1=C(C=CC=C1C=O)C=O | C7H5NO2
reactant | water | O | H2O
reactant | dioxane | 20-25 mL | O1CCOCC1 | C4H8O2
solvent | acetic anhydride | 1.0 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | zinc chloride | about 100 mg | [Cl-].[Zn+2].[Cl-]
product | 2-[3-(2-Chlorophenyl)-6-fluoro-4-oxo-3,4-dihydroquinazolin-2-yl-vinyl)pyridine-2-carbaldehyde | ClC1=C(C=CC=C1)N1C(=NC2=CC=C(C=C2C1=O)F)C=CC1(NC=CC=C1)C=O | C22H15ClFN3O2
